US06982348B2
To a solution of 1-(4-fluorophenyl)-1-oxo-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride (600 mg, 1.73 mmol) and 2-ethyloxy-1-naphthalenecarboxylic acid (411 mg, 1.90 mmol) in N,N-dimethylformamide (10 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (496 mg, 2.59 mmol), 1-hydroxy-1H-benzotriazole (396 mg, 2.59 mmol) and 1,8-diazabicyclo[5.4.0]-7-undecene (0.28 ml, 1.90 mmol) and the mixture was stirred overnight. To the reaction solution were added 1N aqueous hydrochloric acid solution (10 ml) and water (100 ml) and the mixture was extracted with ethyl acetate (50 ml×2). The extract was washed with 1N aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. Recrystallization from ethyl acetate-hexane gave 2-(ethyloxy)-N-(2-(4-fluorophenyl)-2-oxo-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide (670 mg, 76%).

reactant | 1-(4-fluorophenyl)-1-oxo-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride | 1.73 mmol, 600 mg | Cl.FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)N)=O
reactant | 2-ethyloxy-1-naphthalenecarboxylic acid | 1.90 mmol, 411 mg | C(C)OC1=C(C2=CC=CC=C2C=C1)C(=O)O | C13H12O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.59 mmol, 496 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 2.59 mmol, 396 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 1.90 mmol, 0.28 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-(ethyloxy)-N-(2-(4-fluorophenyl)-2-oxo-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide | 670 mg, 76% | C(C)OC1=C(C2=CC=CC=C2C=C1)C(=O)NC(C(=O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)C(F)(F)F | C29H23F4NO3
